US05439925
Allyl 4-(3,5-di-tert-butyl-4-hydroxybenzoyloxymethyl)benzoate
In a manner similar to Example 1(d), by reaction of 7.7 g (28.6 mmol) of 3,5-di-tert-butyl-4-hydroxybenzoyl chloride with 5.5 g (28.6 mmol) of allyl 4-hydroxymethylbenzoate, 4.1 g (34%) of the expected allyl ester, melting point 100°-1° C., are obtained.

reactant | 3,5-di-tert-butyl-4-hydroxybenzoyl chloride | 28.6 mmol, 7.7 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
reactant | allyl 4-hydroxymethylbenzoate | 28.6 mmol, 5.5 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
product | Allyl 4-(3,5-di-tert-butyl-4-hydroxybenzoyloxymethyl)benzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)OCC=C)C=C2)C=C(C1O)C(C)(C)C | C26H32O5
